US04238621
N-[(4-Methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-2- methoxycarbonylbenzenesulfonamide
To an anhydrous suspension of 1.4 g of 2-amino-4-methoxy-6-methyl-1,3,5-triazine in 25 ml of methylene chloride was added with stirring at ambient temperature and pressure 2.4 g of 2-methoxycarbonylbenzenesulfonyl isocyanate. The mixture was thereafter stirred for 16 hours and filtered. The filtrate was evaporated to dryness, the residue was triturated with butyl chloride and the product removed by filtration. The product thus obtained melted at 165°, and had absorption peaks in the infrared at 1550, 1600, 1680 and 1700 cm-1 and in the NMR spectrum at 2.5, 3.65, 4.0 with an aromatic multiplet at 7.2-8 ppm.

reactant | 2-amino-4-methoxy-6-methyl-1,3,5-triazine | 1.4 g | NC1=NC(=NC(=N1)OC)C | C5H8N4O
reactant | 2-methoxycarbonylbenzenesulfonyl isocyanate | 2.4 g | COC(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-[(4-Methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-2- methoxycarbonylbenzenesulfonamide | COC1=NC(=NC(=N1)C)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)OC | C14H15N5O6S
